US04585885
A solution of 23.1 g of 96.5% 1-(3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-1,4-pentadien-3-ol in 85 ml of dimethylformamide in a four-necked flask equipped with a stirrer and reflux condenser was treated with 80 ml of triethylamine and 73 ml of trimethylchlorosilane. The mixture was heated to reflux (heating bath temperature 120° C.) for 2 hours while stirring and under a light argon stream. The mixture was subsequently cooled to about 0° C. with an ice-bath and treated while stirring with 400 ml of hexane and 200 ml of semi-saturated sodium hydrogen carbonate solution. The phases were separated and the aqueous phase was extracted with 200 ml of hexane. The combined organic phases were washed once with 100 ml of saturated sodium chloride solution, dried over sodium sulphate and concentrated at 40° C. in a rotary evaporator. Distillation of the resulting brown oil (39.5 g) at 102°-107° C./0.1 Torr gave 35.0 g of trimethyl[[1-methyl-3-[2,6,6-trimethyl-3-(trimethylsiloxy)-1,3-cyclohexadien-1-yl]-1-vinylallyl]oxy]silane as a pale yellowish oil; purity about 77%.

reactant | 1-(3-oxo-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-1,4-pentadien-3-ol | 23.1 g | O=C1C(=C(C(CC1)(C)C)C=CC(C=C)(O)C)C | C15H22O2
reactant | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 73 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | hexane | 400 ml | CCCCCC | C6H14
product | trimethyl[[1-methyl-3-[2,6,6-trimethyl-3-(trimethylsiloxy)-1,3-cyclohexadien-1-yl]-1-vinylallyl]oxy]silane | 35.0 g | C[Si](OC(C=CC1=C(C(=CCC1(C)C)O[Si](C)(C)C)C)(C=C)C)(C)C | C21H38O2Si2
